US06451821B1
A mixture of 4 g of benzyl (5S)-5-{[(tert-butyloxy)carbonyl]amino}-6-hydroxyhexylcarbamate, 30 cm3 of trifluoroacetic acid and 20 cm3 of ethanol is stirred at a temperature in the region of 20° C. for 2 hours. After concentration of the reaction medium under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained is taken up in 50 cm3 of water and washed with twice 100 cm3 of diethyl ether. The aqueous phase is separated out after settling has taken place, basified with sodium carbonate to pH 9-10 and then extracted with 3 times 100 cm3 of dichloromethane. The combined extracts are washed with aqueous sodium chloride solution and then dried on magnesium sulphate, filtered and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 2.0 g of benzyl (5S)-5-amino-6-hydroxyhexylcarbamate are obtained in the form of a white solid melting at 82° C.

reactant | benzyl (5S)-5-{[(tert-butyloxy)carbonyl]amino}-6-hydroxyhexylcarbamate | 4 g | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(OCC1=CC=CC=C1)=O)CO | C19H30N2O5
reactant | trifluoroacetic acid | 30 cm3 | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanol | 20 cm3 | C(C)O | C2H6O
solvent | water | 50 cm3 | O | H2O
product | benzyl (5S)-5-amino-6-hydroxyhexylcarbamate | 2.0 g | N[C@@H](CCCCNC(OCC1=CC=CC=C1)=O)CO | C14H22N2O3
